US06740662B1
To a 33 ml methanol-pyridine (10:1) solution containing 1.50 g of methyl 3-[4-(3-chlorophenyl)-1-ethyl-7-formyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoate was added 300 mg of hydroxylamine hydrochloride under ice cooling. After stirring for 1 hour, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and then the solvent was evaporated. The resulting residue was treated in a similar manner to Example 2 to obtain 72 mg of 3-[4-(3-chlorophenyl)-1-ethyl-7-hydroxyiminomethyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoic acid as colorless crystals.

reactant | methyl 3-[4-(3-chlorophenyl)-1-ethyl-7-formyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoate | 1.50 g | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C=O)CC)=O)CCC(=O)OC | C21H19ClN2O4
reactant | hydroxylamine hydrochloride | 300 mg | Cl.NO
solvent | water | O | H2O
product | 3-[4-(3-chlorophenyl)-1-ethyl-7-hydroxyiminomethyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoic acid | 72 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C=NO)CC)=O)CCC(=O)O | C20H18ClN3O4
